US06586475B1
N-(2-Aminoethyl)-2-(4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)acetamide Hydrochloride
To a solution of tert-butyl 2-(((4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)acetyl)amino)ethylcarbamate (1.5 g) in acetic acid (100 ml) was added 4N hydrochloric acid/ethyl acetate (4 ml) at room temperature. After stirring at room temperature for 2 hr, the precipitate was collected by filtration, which was washed with ethyl ether and dried to obtain the titled compound (0.9 g).

reactant | tert-butyl 2-(((4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)acetyl)amino)ethylcarbamate | 1.5 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C28H32N2O4
reactant | hydrochloric acid ethyl acetate | 4N, 4 ml | Cl.C(C)(=O)OCC
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-(2-Aminoethyl)-2-(4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)acetamide Hydrochloride | 0.9 g | Cl.NCCNC(CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1)=O | InChI=1S/C23H24N2O2.ClH/c24-14-15-25-23(26)16-18-8-12-22(13-9-18)27-17-19-6-10-21(11-7-19)20-4-2-1-3-5-20;/h1-13H,14-17,24H2,(H,25,26);1H
